US07678796B2
(R)-Piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To (R)-Piperidine-1,2-dicarboxylic acid 1-tert-butyl ester (5.1 g, 22.2 mmol) in DMF (60 mL) were added K2CO3 (12.3 g, 88.8 mmol) and MeI (1.7 mL, 26.6 mmol). After stirring at room temperature overnight, the reaction mixture was diluted with ethyl acetate. The organic layer washed with water (6 times) and brine, dried over anhydrous Na2SO4, filtered and concentrated to give the title product (5.4 g, 99%).

reactant | (R)-Piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | 22.2 mmol, 5.1 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(=O)O | C11H19NO4
reactant | K2CO3 | 88.8 mmol, 12.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 26.6 mmol, 1.7 mL | CI | CH3I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-Piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 5.4 g, 99% | COC(=O)[C@@H]1N(CCCC1)C(=O)OC(C)(C)C | C12H21NO4
